US06566366B1
a) (2S)-2-(4-tert-Butylphenyl-sulfonylamino)-3-((5-(2-methoxycarbonylethyl)-thiophene-2-carbonyl)-amino)-propionic Acid tert-Butyl Ester
A solution of 0.395 g (1 mmol) of (2S)-2-amino-3-((5-(2-methoxycarbonylethyl)-thiophene-2-carbonyl)-amino)-propionic acid tert-butyl ester hydrochloride (example 15, step a) and triethylamine (0.15 ml, 1.1 mmol) in dichloromethane (10 ml) was cooled to 0° C. in an ice bath and a solution of 0.255 g (1.1 mmol) of 4-tert-butylphenylsulfonyl chloride in dichloromethane (5 ml) was added. Then the reaction mixture was stirred at room temperature overnight. After removal of the solvent in vacuo the residue was absorbed onto silica gel and cromatographed with ethyl acetate/cyclohexane (1/1) to yield 0.285 g (52%) of the title compound as a white amorphous solid.

reactant | (2S)-2-amino-3-((5-(2-methoxycarbonylethyl)-thiophene-2-carbonyl)-amino)-propionic acid tert-butyl ester hydrochloride | 1 mmol, 0.395 g | Cl.C(C)(C)(C)OC([C@H](CNC(=O)C=1SC(=CC1)CCC(=O)OC)N)=O
reactant | triethylamine | 1.1 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | 4-tert-butylphenylsulfonyl chloride | 1.1 mmol, 0.255 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (2S)-2-(4-tert-Butylphenyl-sulfonylamino)-3-((5-(2-methoxycarbonylethyl)-thiophene-2-carbonyl)-amino)-propionic Acid tert-Butyl Ester | 0.285 g, 52% | C(C)(C)(C)OC([C@H](CNC(=O)C=1SC(=CC1)CCC(=O)OC)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)=O | C26H36N2O7S2
